datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])=[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[H:14])([H:12])[H:13].[C:24](=[C:25][C:26]([H:29])([H:30])[H:31])([H:27])[H:28]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])([H:18])[C:25](=[C:24]([H:27])[H:28])[C:26]([H:29])([H:30])[H:31])[H:14])([H:12])[H:13],0.29288
[C:0]1([H:10])=[C:1]([H:11])[C:2]([H:12])([H:13])[C:3]2=[C:4]([C:5]([H:14])=[C:6]1[H:15])[C:7]([H:16])=[C:8]([H:17])[C:9]2([H:18])[H:19].[H:20]>>[C:0]1([H:10])=[C:1]([H:11])[C:2]([H:12])([H:13])[C:3]2([H:20])[C:4]([C:5]([H:14])=[C:6]1[H:15])[C:7]([H:16])=[C:8]([H:17])[C:9]2([H:18])[H:19],5.8576
[C:0]([C:1]([C:2]([C:3]([O:4][O:5])([H:15])[H:16])([C:6]([O:7][O:8][H:19])([H:17])[H:18])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:14])([H:15])[H:16])[C:6]([O:7][O:8][H:19])([H:17])[H:18])([H:12])[H:13])([H:9])([H:10])[H:11],113.3864
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3]1[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]1([H:21])[H:22])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])[C:3]1([H:11])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]1([H:21])[H:22])([H:8])([H:9])[H:10],166.523
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([C:6]([C:7]([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])[H:8]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])[C:4]1([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C:7]1([H:17])[H:18])[H:8],58.1994
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7](=[C:8]=[C:9]([H:12])[H:13])([H:10])[H:11]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:10])[H:4].[C:7](=[C:8]=[C:9]([H:12])[H:13])[H:11],25.104
[O:0][C:1]([O:2][C:3](=[O:4])[H:7])([H:5])[H:6]>>[O:0]([C:1]([O:2][C:3]=[O:4])([H:5])[H:6])[H:7],58.576
[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([H:13])[H:14])([O:5][O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:18]([C:19]([C:20]([C:21]([C:22]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:23])([H:24])[H:25]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([H:13])[H:14])([O:5][O:6][H:26])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:18]([C:19]([C:20]([C:21]([C:22]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])[H:27])([H:23])([H:24])[H:25],74.0568
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12]([C:13]([C:14]([H:21])([H:22])[H:23])([O:15][O:16])[H:20])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][O:16][O:15][C:13]([C:12]([H:17])([H:18])[H:19])([C:14]([H:21])([H:22])[H:23])[H:20],62.3416
[C:0]([C:1]([C:2](=[S:3])[H:8])[H:7])([H:4])([H:5])[H:6].[S:9]([H:10])[H:11]>>[C:0]([C:1]([C:2](=[S:3])[H:8])([H:7])[H:10])([H:4])([H:5])[H:6].[S:9][H:11],55.2288
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:16])([H:14])[H:15])([H:12])[H:13])[C:6]([O:7][O:8][H:19])([H:17])[H:18])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([C:6]([O:7][O:8][H:19])([H:17])[H:18])[C:2]([H:12])([H:13])[C:3]([H:14])([H:15])[O:4]1)([H:9])([H:10])[H:11].[O:5][H:16],56.0656
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[O:4][O:5])([H:6])([H:7])[H:8].[C:15]([C:16]([C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[O:4][O:5][H:19])([H:6])([H:7])[H:8].[C:15]([C:16]([C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21],85.60464
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[S:11]=[C:12][S:13][H:14]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:12](=[S:11])[S:13][H:14],20.0832
[N:0]([N:1]([H:3])[H:4])[H:2]>>[H:3].[N:0](=[N:1][H:4])[H:2],288.733656
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[H:38]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[H:19][H:38],18.706664
[C:0]1([H:10])=[C:1]([H:11])[C:2]([H:12])([H:13])[C:3]([C:4]2=[C:5]([H:14])[C:6]([H:15])=[C:7]([H:16])[C:8]2([H:17])[H:18])=[C:9]1[H:19]>>[C:0]1([H:10])=[C:1]([H:11])[C:2]([H:12])([H:13])[C:3]([C:4]2=[C:8]([H:18])[C:7]([H:16])([H:17])[C:6]([H:15])=[C:5]2[H:14])=[C:9]1[H:19],105.0184
[O:0]=[C:1]([C:2]([C:3]([C:4](=[O:5])[H:11])([H:9])[H:10])([H:7])[H:8])[H:6].[O:12][H:13]>>[H:6][O:12][H:13].[O:0]=[C:1][C:2]([C:3]([C:4](=[O:5])[H:11])([H:9])[H:10])([H:7])[H:8],-1.870248
